US07064123B1
4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-N-[(S)-1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide
Similarly prepared according to the procedure for Example 43 but using 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid and (S)-2-amino-1-(5-phenyl-[1,2,4]oxadiazol-3-yl)-butan-1-ol; MS: 569 (MH+), LCMS retention time 4.1 min; 1H NMR (CDCl3) 8.18 (d, J=7.9 Hz, 2H), 7.74–7.31 (m, 9H), 5.27 (m, 1H), 4.25 (m, 2H), 3.71–3.41 (m, 8H), 2.95 (m, 1H), 2.78–2.70 (m, 2H), 2.10 (m, 1H), 1.85 (m, 1H), 1.0 (m, 3H).

reactant | 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | (S)-2-amino-1-(5-phenyl-[1,2,4]oxadiazol-3-yl)-butan-1-ol | NC([C@H](O)C1=NOC(=N1)C1=CC=CC=C1)CC | C12H15N3O2
product | 4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-N-[(S)-1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide | N1(CCOCC1)C(CC(C(=O)N[C@@H](CC)C(=O)C1=NOC(=N1)C1=CC=CC=C1)CS(=O)(=O)CC1=CC=CC=C1)=O | C28H32N4O7S
